US07834015B2
Meanwhile, 2,4-dimethoxybenzaldehyde (1 eq) and propargylamine (1.2 eq) were stirred in MeOH at RT under a N2 atmosphere for 1.5 h and then cooled to 0° C. NaBH4 (1.8 eq) was added in three portions over 15 min. The mixture was stirred for additional 2 h at RT and then quenched with 1 N NaOH solution. The product was extracted with DCM (3×) and then the combined organic layers were washed with brine, dried (Na2SO4) and evaporated under reduced pressure to yield N-(2,4-dimethoxybenzyl)prop-2-yn-1-amine as an orange oil that was used as such in the next step without purification. 1H NMR (400 MHz, DMSO-d6) δ: 7.15 (1H, d, J=8.3 Hz), 6.52 (1H, d, J=2.3 Hz), 6.46 (1H, dd, J=8.3, 2.3 Hz), 3.76 (3H, s), 3.74 (3H, s), 3.63 (2H, s), 3.28 (2H, d, J=3.3 Hz), 3.04 (1H, t, J=2.4 Hz), 2.1 (1H, bs).

reactant | 2,4-dimethoxybenzaldehyde | 1 eq | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | propargylamine | 1.2 eq | C(C#C)N | C3H5N
reactant | NaBH4 | 1.8 eq | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | N-(2,4-dimethoxybenzyl)prop-2-yn-1-amine | COC1=C(CNCC#C)C=CC(=C1)OC | C12H15NO2
